US07884175B2
Synthesis of 2,5-bis(hydroxymethyl)-1-(3,7-dimethyloctyl-oxy)-4-methoxybenzene
In a 3 l four-neck flask with condenser and precision glass stirrer, 144.9 g (3.62 mol) of sodium hydroxide were dissolved in 1800 ml of ethanol. After addition of 370 g (0.91 mol) of 2,5-bis(acetoxymethyl)-1-(3,7-dimethyloctyl-oxy)-4-methylbenzene, the mixture was stirred at room temperature for 3 h and at 45° C. for 2.5 h. The mixture was poured onto 2000 ml of water, and the solid which formed was filtered, stirred 3 times with water and filtered again. From the mother liquor, a second fraction was obtained which was likewise stirred 3× with water. The two combined fractions were stirred with hexane at room temperature for 0.5 h, filtered and dried. 183.8 g of white powder were obtained, which were used without further workup and without further characterization directly in the next stage.

reactant | sodium hydroxide | 3.62 mol, 144.9 g | [OH-].[Na+]
reactant | 2,5-bis(acetoxymethyl)-1-(3,7-dimethyloctyl-oxy)-4-methylbenzene | 0.91 mol, 370 g | C(C)(=O)OCC1=C(C=C(C(=C1)C)COC(C)=O)OCCC(CCCC(C)C)C | C23H36O5
reactant | water | 2000 ml | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 1800 ml | C(C)O | C2H6O
product | 2,5-bis(hydroxymethyl)-1-(3,7-dimethyloctyl-oxy)-4-methoxybenzene | 183.8 g | OCC1=C(C=C(C(=C1)OC)CO)OCCC(CCCC(C)C)C | C19H32O4
